US05514691
3-Chloro-2-methyl-N-(4-Bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 3-chloro-2-methylbenzenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 185°-187° C., yield 34 %.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-2-methyl-N-(4-Bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 34 % | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=C(C(=NO1)C)Br)C | C11H10BrClN2O3S
